US06562828B1
4-(2-Amidino-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl)-1-(pyrimidin-4-yl)piperidine-4-carboxylic Acid Dihydrochloride
To a solution of 1-(pyrimidin-4-yl)-4-(1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl)piperidine-4-carboxylic acid ethyl ester (260 mg) in dimethylformamide (1 ml) were added diisopropylethylamine (0.24 ml) and 1H-pyrazole-1-carboxamidine hydrochloride (200 mg), and the mixture was stirred at room temperature for 2 hours. After completion of the reaction, the solvent was evaporated and the obtained residue was separated by HPLC (0.05% aqueous trifluoroacetic acid:methanol=6:4-2:8). The obtained residue was refluxed with conc. hydrochloric acid for 2 hours. After completion of the reaction, the solvent was evaporated and the obtained residue was washed with diethyl ether and dried under reduced pressure to give the title compound (51 mg).

reactant | 1-(pyrimidin-4-yl)-4-(1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl)piperidine-4-carboxylic acid ethyl ester | 260 mg | C(C)OC(=O)C1(CCN(CC1)C1=NC=NC=C1)COC1=CC=C2CCNCC2=C1 | C22H28N4O3
reactant | diisopropylethylamine | 0.24 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1H-pyrazole-1-carboxamidine hydrochloride | 200 mg | Cl.N1(N=CC=C1)C(=N)N
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 4-(2-Amidino-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl)-1-(pyrimidin-4-yl)piperidine-4-carboxylic Acid Dihydrochloride | 51 mg | Cl.Cl.C(N)(=N)N1CC2=CC(=CC=C2CC1)OCC1(CCN(CC1)C1=NC=NC=C1)C(=O)O | InChI=1S/C21H26N6O3.2ClH/c22-20(23)27-8-4-15-1-2-17(11-16(15)12-27)30-13-21(19(28)29)5-9-26(10-6-21)18-3-7-24-14-25-18;;/h1-3,7,11,14H,4-6,8-10,12-13H2,(H3,22,23)(H,28,29);2*1H
